US04297358
30 ml of oxalic acid diethyl ester are added to a solution of 10 g of 5-acetyl-6-nitro-8-methoxyquinoline in 200 ml of ethanol and 3 g of sodium ethylate, and refluxed, whilst stirring, for 12 hours with the exclusion of water. 100 ml of toluene are then added and the reaction mixture is heated for a further 5 hours, then evaporated to dryness in vacuo and the residue triturated first with 2 N acetic acid then with water. The crude 4-(6-nitro-8-methoxyquinolin-6-yl)-2,4-dioxobutyric acid ethyl ester obtained in this manner is further processed without further purification.

reactant | oxalic acid diethyl ester | 30 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 5-acetyl-6-nitro-8-methoxyquinoline | 10 g | C(C)(=O)C1=C2C=CC=NC2=C(C=C1[N+](=O)[O-])OC | C12H10N2O4
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | sodium ethylate | 3 g | CC[O-].[Na+]
product | 4-(6-nitro-8-methoxyquinolin-6-yl)-2,4-dioxobutyric acid ethyl ester | C(C)OC(C(CC(=O)C1(CC=2C=CC=NC2C(=C1)OC)[N+](=O)[O-])=O)=O | C16H16N2O7
